US07205306B2
5-Chloro-3-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-1-(1-ethyl-3-methoxypropyl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-(1-ethyl-3-methoxypropyl)-2(1H)-pyrazinone and 5,7-dichloroindoline as the starting materials. mp 95–97° C.; 1H NMR (300 MHz, CDCl3): δ 7.16 (d, J=2.2 Hz, 1 H), 7.09 (d, J=1.8 Hz, 1 H), 6.78 (s, 1 H), 4.89–4.82 (m, 1 H), 4.32 (t, J=8.1 Hz, 2 H), 3.39–3.27 (m, 2 H), 3.25 (s, 3 H), 3.11 (t, J=7.9 Hz, 2 H), 2.01–1.93 (m, 2 H), 1.84–1.72 (m, 2 H), 0.86 (t, J=7.5 Hz, 3 H); HRMS (ESI) calcd for C18H21N3O2Cl3 (M+H)+: 416.0699; found m/z 416.0717.

reactant | 3,5-dichloro-1-(1-ethyl-3-methoxypropyl)-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)C(CCOC)CC)=O | C10H14Cl2N2O2
reactant | 5,7-dichloroindoline | ClC=1C=C2CCNC2=C(C1)Cl | C8H7Cl2N
product | 5-Chloro-3-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-1-(1-ethyl-3-methoxypropyl)-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)C(CCOC)CC)=O)N1CCC2=CC(=CC(=C12)Cl)Cl | C18H20Cl3N3O2
